US08809356B2
Chlorosulfonyl isocyanate (45.2 Kg, 319.4 mol) was added to toluene (194.2 Kg) and the resulting solution cooled to between about 0-6° C. A solution of tert-butyl alcohol (23.6 Kg, 318.4 mol) in toluene (48.0 Kg) was then added over a period of 90 minutes, maintaining a temperature of between about 0-6° C. The mixture was then stirred until consumption of tert-butyl alcohol was complete (approximately 80 minutes). A solution of triethylenediamine (DABCO, 71.4 Kg, 636.5 mol) in toluene (293.0 Kg) was then added to the mixture over a period of 2.5 hours, maintaining a temperature of between about 0-6° C. The mixture was then warmed to 20-25° C. and stirred for 8 hours. The solid product was isolated by centrifugal filtration under a nitrogen atmosphere and washed with toluene (180.8 Kg) and then tert-butyl methyl ether (51.0 gallons) and spun until no further liquors were seen to be expelled (approximately 60 minutes). The solids were then further dried under vacuum to afford 132.9 Kg of (4-aza-1-azoniabicyclo[2.2.2]oct-1-ylsulfonyl)(tert-butoxycarbonyl)azanide-1,4-diazabicyclo[2.2.2]octane (1:1) hydrochloride.

reactant | Chlorosulfonyl isocyanate | 319.4 mol, 45.2 Kg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | tert-butyl alcohol | 318.4 mol, 23.6 Kg | C(C)(C)(C)O | C4H10O
reactant | triethylenediamine | 636.5 mol, 71.4 Kg | C1CN2CCN1CC2 | C6H12N2
solvent | toluene | 48.0 Kg | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 293.0 Kg | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 194.2 Kg | C1(=CC=CC=C1)C | C7H8
product | (4-aza-1-azoniabicyclo[2.2.2]oct-1-ylsulfonyl)(tert-butoxycarbonyl)azanide 1,4-diazabicyclo[2.2.2]octane | 132.9 Kg | [N+]12(CCN(CC1)CC2)S(=O)(=O)[N-]C(=O)OC(C)(C)C.N12CCN(CC1)CC2 | InChI=1S/C11H21N3O4S.C6H12N2/c1-11(2,3)18-10(15)12-19(16,17)14-7-4-13(5-8-14)6-9-14;1-2-8-5-3-7(1)4-6-8/h4-9H2,1-3H3;1-6H2
